US07030128B2
N-(6-Bromopyridin-2-yl)acetamide (0.33 g, 1.56 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.6 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with ethyl acetate on a gradient of methanol (0-5%) gave N-[6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-yl]acetamide (14 mg) as an off-white solid: δH (400 MHz, DMSO) 2.19 (3H, s), 7.60 (1H, d, J 7), 7.85 (1H, d, J 7), 7.92 (1H, dd, J 8 and 8), 7.97 (1H, d, J 8), 8.90 (1H, s), 10.65 (1H, s), 10.75 (1H, d, J 7); m/z (ES+) 321 (M++H).

reactant | N-(6-Bromopyridin-2-yl)acetamide | 1.56 mmol, 0.33 g | BrC1=CC=CC(=N1)NC(C)=O | C7H7BrN2O
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.6 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | N-[6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-yl]acetamide | 14 mg | FC(C1=NC=2N(C=C1)C(=CN2)C2=CC=CC(=N2)NC(C)=O)(F)F | C14H10F3N5O
